US09061979B2
(1) Preparation of 4-(carboxymethyl sulfenyl)benzophenone
55 g 4-chloro benzophenone and 24 g mercaptoacetic acid are added into a 500 ml three-neck flask, and are dissolved with 350 ml DME (dimethyl acetamide) to obtain a solution, and then 23 g solid sodium hydroxide is added into the solution. Heating the solution to reflux (105-110° C.), and starting to cool the solution when the content of 4-chloro benzophenone detected by HPLC is less than 1%. The reaction solution is added into 500 ml water, and then water insoluble substances are extracted with 100 ml methylbenzene. Concentrated hydrochloric acid is used to regulate the pH value of the aqueous phase to 3-4, then some solid substances precipitate, filtering to obtain crude products, and the weight after drying is 60 g; the dried crude products are recrystallized in dichloroethane to obtain 55.3 g white crystal, and the yield was 80%.

reactant | 4-chloro benzophenone | 55 g | ClC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9ClO
reactant | mercaptoacetic acid | 24 g | SCC(=O)O | C2H4O2S
reactant | DME | 350 ml | CC(=O)N(C)C | C4H9NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 500 ml | O | H2O
product | 4-(carboxymethyl sulfenyl)benzophenone | 55.3 g, yield was 80% | C(=O)(O)CSC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C15H12O3S
